US09029544B2
(3S,6S,9S)-3-(2-fluoro-4-(trifluoromethyl)phenyl)-4-isopropyl-7,7-dimethyl-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-6,9-diol
17 mg (3S,6S,9S)-9-(tert-butyldimethylsilyloxy)-3-(2-fluoro-4-(trifluoromethyl)phenyl)-4-isopropyl-7,7-dimethyl-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-6-yl acetate are dissolved in 2 ml methanol and treated with 70 mg potassium carbonate. The mixture is stirred for 36 hours. Then the solvent is evaporated in vacuo. The residue is partitioned between water and diethylether. The organic phase is separated and dried with magnesium sulphate. The solvent is evaporated in vacuo and the residue is taken up in 1 ml tetrahydrofurane. 50 μl Tetrabutylammonium fluoride are added and the mixture is stirred for 3 hours at room temperature. The solvent is evaporated in vacuo and the residue is chromatographed on silica gel (n-hexane/ethylacetate 80:20).

reactant | (3S,6S,9S)-9-(tert-butyldimethylsilyloxy)-3-(2-fluoro-4-(trifluoromethyl)phenyl)-4-isopropyl-7,7-dimethyl-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-6-yl acetate | 17 mg | C(C)(=O)O[C@H]1C(C[C@@H](C=2C3=C(C(=NC12)C(C)C)[C@H](OC31CCOCC1)C1=C(C=C(C=C1)C(F)(F)F)F)O[Si](C)(C)C(C)(C)C)(C)C | C35H47F4NO5Si
reactant | potassium carbonate | 70 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 2 ml | CO | CH4O
product | (3S,6S,9S)-3-(2-fluoro-4-(trifluoromethyl)phenyl)-4-isopropyl-7,7-dimethyl-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-6,9-diol | FC1=C(C=CC(=C1)C(F)(F)F)[C@H]1OC2(CCOCC2)C2=C1C(=NC=1[C@H](C(C[C@@H](C21)O)(C)C)O)C(C)C | C27H31F4NO4
